US05981572
3-(5-chloro-2,3-dihydro-benzofuran-4-yl)propylamine hydrochloride
A solution of of 3-(2,3-dihydro-benzofuran-4-yl)-propylamine hydrochloride (150 mg) and N-chlorosuccinimide (100 mg) in acetic acid (50 ml) was stirred at room temperature overnight. The solution was evaporated to dryness and the residue taken up in water, basified with 2N sodium hydroxide and extracted with dichloromethane. The extracts were dried and evaporated and the residue disolved in a solution of hydrogen chloride in methanol. Evaporation gave the the title compound (159 mg) as an off-white powder after trituration with ether.

reactant | 3-(2,3-dihydro-benzofuran-4-yl)-propylamine hydrochloride | 150 mg | Cl.O1CCC2=C1C=CC=C2CCCN
reactant | N-chlorosuccinimide | 100 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 3-(5-chloro-2,3-dihydro-benzofuran-4-yl)propylamine hydrochloride | 159 mg | Cl.ClC=1C=CC2=C(CCO2)C1CCCN | InChI=1S/C11H14ClNO.ClH/c12-10-3-4-11-9(5-7-14-11)8(10)2-1-6-13;/h3-4H,1-2,5-7,13H2;1H
